US04699926
A mixture of 2,3-dichloro-4-butyrylphenol (7 g, 0.03 mole), potassium carbonate (7.5 g, 0.054 mole) and ethyl 5-bromovalerate (9.5 g, 0.045 mole) in N,N-dimethylformamide (60 ml) were stirred and heated at 60° C. for 3 hours. The mixture was treated with 10 normal sodium hydroxide (12 ml) and water (50 ml), then stirred and heated on a steam bath for 2.5 hours. The solution was poured into ice water containing hydrochloric acid. The solid that separated was removed by filtration, washed with water and dried. The product (9.8 g) was recrystallized from butyl chloride to give 5-(2,3-dichloro-4-butyrylphenoxy)valeric acid, m.p. 102°-103° C.

reactant | 2,3-dichloro-4-butyrylphenol | 0.03 mole, 7 g | ClC1=C(C=CC(=C1Cl)C(CCC)=O)O | C10H10Cl2O2
reactant | potassium carbonate | 0.054 mole, 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 5-bromovalerate | 0.045 mole, 9.5 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 5-(2,3-dichloro-4-butyrylphenoxy)valeric acid | ClC1=C(OCCCCC(=O)O)C=CC(=C1Cl)C(CCC)=O | C15H18Cl2O4
